US06710064B2
(7aS,6S)-2-(3,5-dichloro-phenyl)-6-hydroxy-tetrahydro-pyrrolo[1,2-c]imidazole-1,3-dione
To a solution of cis-4-hydroxy-L-proline methyl ester (0.53 g) (0.0036 mol) in 10 mL of DMF cooled at 0° C. was added K2CO3 (0.52 g) (1.1 eq.), then 3,5-dichlorophenyl isocyanate (0.75 g) (1.1 eq.). The reaction was stirred overnight at RT and the insoluble material removed by filtration. The solution was concentrated under vacuum and the residue dissolved in DCM. The organic layer was washed with water, dried over MgSO4, and evaporated under reduced pressure. The resulting residue was purified on a SiO2 column (eluent: DCM/acetone-95/5) to afford the titled compound as a white solid (0.25 g). NMR (CDCl3, 200 MHz): 7.35 (3H, s), 4.45 (1H, m), 4.30 (1H, dd), 4.0 (1H, d), 3.1 (1H, dd), 2.35-2.2 (2H, m), 1.95 (1H, bs, OH).

reactant | cis-4-hydroxy-L-proline methyl ester | 0.0036 mol, 0.53 g | COC([C@H]1NC[C@H](C1)O)=O | C6H11NO3
reactant | K2CO3 | 0.52 g, 1.1 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 3,5-dichlorophenyl isocyanate | 0.75 g, 1.1 eq. | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (7aS,6S)-2-(3,5-dichloro-phenyl)-6-hydroxy-tetrahydro-pyrrolo[1,2-c]imidazole-1,3-dione | 0.25 g | ClC=1C=C(C=C(C1)Cl)N1C(N2[C@H](C1=O)C[C@@H](C2)O)=O | C12H10Cl2N2O3
